Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Abdominal/groin pain
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Ms. ___ is a ___ woman with history of anxiety 
disorder and recently diagnosed DVT in LLE at ___ 
___ (on Lovenox bridge to coumadin) who presented to the ED 
with chief complaint of left groin pain.

She was in her usual state of good health until last ___, 
when she experienced the sudden onset of a strong pain in her 
calf and the back of her left thigh. At first she thought that 
she may be experiencing sciatica, but after a few hours the pain 
began radiating from the back of the thigh around to the front. 
She then sought medical attention and was ultimately diagnosed 
with a lower extremity DVT. She was placed on a heparin drip and 
started on Lovenox with a plan to bridge to coumadin and 
discharged the following day. The next day, she began 
experiencing a pain in her left groin/lower abdomen. Out of 
concern that this could be related or that something serious 
could be wrong, she again sought medical attention. She was not 
aware of being tachycardic and had no palpitations or SOB. She 
was surprised that so much attention was focused on her heart in 
the ED, as this was (she felt) unrelated to her chief complaint. 
She states that she thinks her heart rate is usually fast - she 
says she is "very hyperactive" and that her heart rate is rarely 
down in the ___. 

She was found in the ED to be tachycardic to the 150s. EKG 
showed sinus tachycardia with no ischemic changes. Enzymes were 
not sent. UA was dirty. CTA was deferred because, per ED report, 
she just had one done at ___ that was 
negative. Patient was given 1L normal saline and heart rate came 
down to 97. Vitals at time of admission were 98.6, 118/74, 97, 
20, 99%RA.

On arrival to the floor, she continues to complain of a severe 
pain in her LLQ/groin. She also states that she has a "burning" 
in her chest that comes and goes but is worse with deep 
inspiration. Otherwise she has no new complaints.

ROS: Endorses chills/nightsweats since ___ as well as a 
decrease in appetite. No changes in weight. She has occasional 
heartburn which is acting up this evening and may be related to 
the burning with deep inspiration. No N/V/D but patient has not 
had a BM since ___, which is unusual for her. No history of 
bloody or tarry stool. No dysuria, urgency or frequency of 
urination. No problems with eyes/vision, ears/hearing, 
muslces/joints. No recent illness. Endorses anxiety/anxious 
mood.
 
Past Medical History:
- Pyelonephritis (hospitalized)
- Tooth abscess
- Heartburn (occasional)
- Pneumonia (complication following C-section)
- C-section x 1, NSVD x 2
- "Cyst" in breast (benign) removed age ___
- Nose surgery to correct deviated septum age ___
 
Social History:
___
Family History:
Her mother died in childbirth in ___ (complications from 
toxemia). Brother died of drug overdose. Father, sister alive in 
good health. 
- Blood clots: Grandmother, 2 great uncles, 2 uncles
- DM2: Grandmother
- MI: Grandfather (late ___, grandmother (___)

 
Physical Exam:
Vitals: t 99.2, BP 108/62, HR 108, RR 18, O2 sat 96% on RA
General: Thin, Caucasian woman reclining in bed, gripping LLQ of 
abdomen with hand, appears uncomfortable but in no acute 
distress
HEENT: MMM, EOMI, PERRL
CV: Tachycardic to 100s with regular rhythm, no murmur
Lungs: CTA bilaterally
Abdomen: Soft, non-distended, TTP very focally in LLQ and just 
inferior to the mid-portion of the L inguinal ligament in the 
groin. Remainder of abdomen is non-tender.
Extremities: 2+ DP pulses bilaterally. Right calf and right 
upper thigh are swollen compared with the left side. No notable 
erythema, but R calf/thigh are tender to palpation. 
Skin: Tatoos on stomach, L ankle; small ecchymoses presumably 
from Lovenox injections on abdomen
 
Pertinent Results:
___ 11:13PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 11:13PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-NEG 
GLUCOSE-TR KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-8.0 LEUK-TR
___ 11:13PM URINE  ___ BACTERIA-MOD YEAST-RARE 
___ 04:05PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 04:05PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-50 BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 LEUK-SM
___ 04:05PM URINE  ___ BACTERIA-FEW 
YEAST-MOD ___ 02:45PM   GLUCOSE-109* UREA N-8 CREAT-0.6 SODIUM-134 
POTASSIUM-3.6 CHLORIDE-98 TOTAL CO2-22 ANION GAP-18
___ 02:45PM   estGFR-Using this
___ 02:45PM   WBC-8.0 RBC-4.39 HGB-14.1 HCT-40.2 MCV-92 
MCH-32.2* MCHC-35.1* RDW-12.3
___ 02:45PM   NEUTS-72.5* ___ MONOS-5.4 EOS-2.4 
BASOS-0.6
___ 02:45PM   PLT COUNT-213
___ 02:45PM   ___ PTT-28.5 ___
========
___ UNILAT LOWER EXT VEINS LEFT   

Reason: Please evaluate for migration of left ___ DVT into pelvic 
veins 
 
Final Report 
INDICATION: Left lower extremity DVT with severe left groin 
pain. 
  
COMPARISON: None is available. 
  
FINDINGS: The left lower extremity is notable for echogenic 
thrombus seen occluding the common femoral, proximal greater 
saphenous, superficial femoral, popliteal, posterior tibial and 
peroneal veins. None of these vessels are compressible and only 
a small amount of flow is seen on color Doppler in the left 
greater saphenous vein. Otherwise no flow seen in the 
aforementioned venous structures in the left lower extremity.  
  
On the right, the common femoral, proximal greater saphenous, 
superficial femoral, and popliteal veins are all normal with 
appropriate compressibility, wall-to-wall flow on color analysis 
and appropriate response to waveform augmentation. Wall-to-wall 
flow is also seen in the calf in the posterior tibial and 
peroneal veins. 
  
Limited transabdominal scanning through the abdomen reveals an 
unremarkable appearing uterus and adnexa. Normal arterial and 
venous waveforms are seen in the left ovary. Of note, while 
wall-to-wall flow with appropriate waveforms is seen in the 
right external iliac vein, echogenic thrombus is visualized in 
the left external iliac vein and there is no evidence of flow on 
color analysis. Single view of the intrahepatic IVC shows this 
vessel to be patent. 
  
IMPRESSION:  
1. Extensive left lower extremity venous thrombosis with 
extension to the 
left external iliac vein. 
2. No evidence of right deep venous thrombosis.  
3. Normal arterial and venous waveforms seen in the left ovary. 
Note that 
this is not a diagnostic dedicated pelvic ultrasound. 
 

 
Brief Hospital Course:
The following issues were addressed during this admission:

# Sinus tachycardia. Patient was initially tachycardic in the ED 
to ~150. EKG showed sinus tachycardia. She received IV fluids 
and her heart rate came down to ~100. Abdominal pain and anxiety 
most likely contributed to the patient's tachycardia; however, 
pulmonary embolism remained an obvious concern that could not be 
ruled out. As the patient was already on an appropriate 
anticoagulation regimen and CTA from the OSH was negative two 
days prior, a repeat study was not undertaken. The patient was 
monitored on telemetry overnight with no events.

# Left lower quadrant and left groin pain. The timing of the 
patient's symptoms and the location at the groin extending into 
the abdomen raised suspicion that her pain could be due to the 
extension of blood clot from the femoral into the iliac vessels. 
On physical exam, the patient's pain was very focal and crossed 
the inguinal ligament. Other causes of left lower quadrant pain 
were considered (menstrual cramps, as the patient was currently 
menstruating; cystitis, as she had a slightly abnormal U/A; 
constipation, as she had not had a bowel movement in 3 days) but 
seemed less likely. She received acetominophen which was 
effective at reucing the pain to a tolerable level. Ultrasound 
of the left lower extremity veins was performed (see report 
above) and results suggested that her pain was indeed related to 
extension of blood clot. The report from the OSH did not address 
the iliac vessels, so it remained unclear the extent to which 
presence of clot in the external iliac vein represented a new 
extension (in the setting of seemingly appropriate 
anticoagulation regimen). Given that the symptoms of 
abdominal/groin pain were new since her initial presentation, a 
hematology consult was called, who agreed with the current 
anticoagulation plan of Lovenox, bridging to Coumadin.  They 
plan to see the patient as an outpatient in the ___ 
___ within 1 week.  The patient will be called with an 
appointment date and time.

# DVT of left lower extremity. This patient has a strong family 
history of blood clots (at least 5 relatives with known disease; 
thrmobosis could also have played a role in her mother's death 
in childbirth, although there are no records to support this). 
Patient is also a heavy smoker, which may augment a genetic 
tendency toward thrombosis.  A work-up for underlying clotting 
disorder was initiated at the OSH; results will go to patient's 
PCP. On physical exam, the patient's left leg was noticeably 
enlarged compared with the right at both the calf and the thigh. 
There was no warmth or erythema at this time (resolved, per 
patient). During this admission, she was maintained on Warfarin 
5 mg PO daily. INR increased from 0.9 at admission to only 1.0 
at discharge. Per recommendations of our pharmacy, she was 
changed from once daily to twice daily dosing of Lovenox (to 50 
mg SC BID). She received acetominophen for pain control and was 
provided with a walker for assistance with ambulation.

# Burning with deep inspiration. Patient reported a "burning 
discomfort" in her chest ("not pain") upon arrival to the floor. 
She also stated that she was having heartburn. It was unclear 
whether this sensation was related to her heartburn, or whether 
it could be related to a new phenomenon such as PE. She received 
acetominophen and Maalox and the discomfort resolved.

# Positive U/A. See U/A results above. Her first urine sample 
showed numerous epithelial cells and large blood (patient was 
currently menstruating), which suggested that this was not a 
clean catch sample. She denied dysuria, frequency or urgency. A 
repeat U/A showed no WBC, so true cystitis was considered 
unlikely and antibiotics were not started. Urine culture was 
sent which showed mixed bacterial flora, consistent with fecal 
contamination.

# Constipation. Patient reported that she had had no BM since 
___. She was started on a bowel regimen with senna and 
colace and offered Dulcolax PRN.

# Smoking cessation: This is the patient's major modifiable risk 
factor for blood clots. Given her strong family history (and now 
personal history) of DVT, it is especially important that she 
stop smoking. She states that she has tried the patch in the 
past with some side effects, but would be willing to try 
nicotine gum. She was provided with nicotine gum during her 
in-patient stay and will be discharged with a prescription to 
aid her in her challenge to quit smoking. She will require 
follow up by her PCP to instruct her in the appropriate taper 
and perhaps consider pharmacological help such as Chantax.

 
Medications on Admission:
- Lovenox 70 mg SC daily
- Coumadin 5 mg PO daily
 
Discharge Medications:
1. Warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.  
2. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain.  
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day) as needed for constipation.  
4. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
5. Enoxaparin 60 mg/0.6 mL Syringe Sig: 0.5 ml Subcutaneous Q12H 
(every 12 hours): You will need to first eject 0.1 ml from the 
syringe prior to injecting yourself with a total dose of 0.5 mL 
(= 50 mg).
Disp:*14 ml* Refills:*2*
6. Nicotine (Polacrilex) 2 mg Gum Sig: ___ Gums Buccal Q1H 
(every hour) as needed for smoking cessation: Do not exceed 24 
doses in 24 hours. Chew gum until you notice a peppery taste or 
slight tingle, then park the gum between your cheek and gum. 
Repeat process until the peppery taste or tingle is gone (~ 30 
minutes).
Disp:*200 Gum(s)* Refills:*5*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Deep vein thrombosis
Nicotine dependence

 
Discharge Condition:
Good - tolerating regular diet, heart rate in the ___ and other 
vital signs also stable, pain well-controlled on acetominophen.

 
Discharge Instructions:
You were admitted to ___ with a 
chief complaint of abdominal/groin pain. You were also found to 
have an elevated heart rate. An ultrasound examination of the 
veins in your leg and pelvis showed that your pain is most 
likely caused by an extension of the blood clot that was 
diagnosed last week. You were given acetominophen to treat the 
pain with good effect and continued on the medications to 
dissolve the clot.

We have made the following changes to your medication regimen:
- CHANGE DOSE of Lovenox to 50 mg subcutaneous injection twice 
daily
- BEGIN TAKING Nicorette gum 2 mg/piece up to ___ pieces an hour 
to control urge to smoke cigarettes
- BEGIN TAKING Acetominophen (Tylenol) at over-the-counter 
dosing (follow the information on the packaging) to control pain
- CONSIDER TAKING Senna (mild laxative) and/or Colace (stool 
softener) for constipation. Both are available over the counter 
(ask your pharmacist for assistance if necessary).
- CONTINUE TAKING coumadin at the dose of 5 mg per day until you 
follow-up with your primary care doctor the day after discharge.

You should also make every effort to quit smoking. Smoking will 
increase your risk of future blood clots, which can be fatal if 
embolization to the lungs occurs. You should consider this 
diagnosis of deep vein thrombosis as a wake-up call to quit 
smoking.  We are prescribing nicotine gum to assist you in your 
efforts to quit. However, there are many other resources 
available, so if this is insufficient please discuss other 
options with your primary care physician.

Please adhere to the plan for follow-up care as outlined below.

Please seek immediate medical attention if you experience 
uncontrollable pain, weakness/numbness in your leg, high fevers 
or any other concerning symptoms.
 
Followup Instructions:
___